* source OTA_APPLICATIONS
V_V1         VDD 0 5V
V_V2         VSS 0 -5V
M_Q1         N14879 0 N17256 N17256 MOSn1 
M_Q2         N14887 0 N17256 N17256 mosn1 
M_Q3         N14879 N14879 VDD VDD MOSp1 
M_Q4         N14887 N14879 VDD VDD mosp1 
M_Q5         N17256 N17472 VSS VSS MOSn1 
V_V4         N17472 0 -1.6
M_Q6         N25349 N25349 VDD VDD MOSp1 
M_Q9         N25365 N25365 N25441 N25441 mosn1 
M_Q8         N25349 N25425 N25441 N25441 MOSn1 
M_Q7         N25365 N25349 VDD VDD mosp1 
V_V11         N25537 0 -1.6V
M_Q10         N25441 N25537 VSS VSS MOSn1 
M_Q11         N26031 N26031 VDD VDD MOSp1 
M_Q13         N26031 N28904 N26123 N26123 MOSn1 
M_Q15         N26123 N26165 VSS VSS MOSn1 
M_Q14         VO2 N27874 N26123 N26123 mosn1 
M_Q12         VO2 N26031 VDD VDD mosp1 
V_V12         N26165 0 -1.6V
V_V13         N25425 0  AC 1
+SIN 0 1m 100k 0 0 0
C_C1         0 N25365  0.32n  TC=0,0 
M_Q18         N27858 VO2 N27968 N27968 MOSn1 
M_Q20         N27968 N26165 VSS VSS MOSn1 
M_Q16         N27858 N27858 VDD VDD MOSp1 
M_Q17         N27874 N27858 VDD VDD mosp1 
M_Q19         N27874 N27874 N27968 N27968 mosn1 
C_C2         0 VO2  {C1_cap}  TC=0,0 
C_C3         0 N27874  {C2_cap}  TC=0,0 
V_V15         N28904 0  AC 1
+SIN 0 1m 100k 0 0 0
.PARAM  c2_cap={k*q} c2_cap_qvar=1 k=318.3e-12 c1_cap_qvar=1 c1_cap={k/q} q=10
