* source 0A-6TCELL
M_M3         DATA DATANEG VDD VDD amsp  
+ L=1u  
+ W=5u         
M_M2         DATANEG DATA 0 0 amsn  
+ L=1u  
+ W=2u         
C_C1         0 BL  500f  TC=0,0 
M_M1         DATA DATANEG 0 0 amsn  
+ L=1u  
+ W=2u         
M_M4         DATANEG DATA VDD VDD amsp  
+ L=1u  
+ W=5u         
M_M5         DATA WL BL 0 amsn  
+ L=1u  
+ W=30u         
V_WL         WL_WRITE 0  
+PULSE 0 3V 0.15u 1n 1n 0.05u 0.9u
C_C2         0 BL_NEG  500f  TC=0,0 
M_M6         BL_NEG WL DATANEG 0 amsn  
+ L=1u  
+ W=30u         
V_DataWrite         DATAWRITE 0  
+PULSE 0V 3V 0.1u 0.1n 0.1n 0.9u 1.8u
V_V1         VDD 0 3V
V_BL1         DATANEGWRITE 0  
+PULSE 3V 0V 0.1u 0.1n 0.1n 0.9u 1.8u
V_RW         RW 0  
+PULSE 0 3V 0.1u 1p 1p 0.2u 0.9u
X_S1    RW 0 WL WL_WRITE SCHEMATIC1_S1 
X_S2    RW 0 WL WL_READ SCHEMATIC1_S2 
V_WL1         WL_READ 0  
+PULSE 0 3V 0.3u 1n 1n 0.05u 0.9u
X_S3    RW 0 BL DATAWRITE SCHEMATIC1_S3 
X_S5    RW 0 BL_NEG DATANEGWRITE SCHEMATIC1_S5 
M_M7         DATARETRIEVED DATARETRVNEG VDD VDD amsp  
+ L=1u  
+ W=5u         
M_M9         DATARETRIEVED DATARETRVNEG 0 0 amsn  
+ L=1u  
+ W=2u         
M_M10         DATARETRVNEG DATARETRIEVED 0 0 amsn  
+ L=1u  
+ W=2u         
M_M8         DATARETRVNEG DATARETRIEVED VDD VDD amsp  
+ L=1u  
+ W=5u         
M_M11         DATARETRIEVED PRECHRG DATARETRVNEG N38140 amsn  
+ L=1u  
+ W=10u         
V_Precharge         PRECHRG 0  
+PULSE 0 3V 0.25u 1p 1p 50n 0.9u
X_S6    RW 0 BL DATARETRIEVED SCHEMATIC1_S6 
X_S7    RW 0 BL_NEG DATARETRVNEG SCHEMATIC1_S7 

.subckt SCHEMATIC1_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=100Meg Ron=0.01 Voff=0V Von=3V
.ends SCHEMATIC1_S1

.subckt SCHEMATIC1_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=100Meg Ron=0.01 Voff=3V Von=0V
.ends SCHEMATIC1_S2

.subckt SCHEMATIC1_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=100Meg Ron=0.01 Voff=0V Von=3V
.ends SCHEMATIC1_S3

.subckt SCHEMATIC1_S5 1 2 3 4  
S_S5         3 4 1 2 _S5
RS_S5         1 2 1G
.MODEL         _S5 VSWITCH Roff=100Meg Ron=0.01 Voff=0V Von=3V
.ends SCHEMATIC1_S5

.subckt SCHEMATIC1_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=100Meg Ron=0.01 Voff=3V Von=0V
.ends SCHEMATIC1_S6

.subckt SCHEMATIC1_S7 1 2 3 4  
S_S7         3 4 1 2 _S7
RS_S7         1 2 1G
.MODEL         _S7 VSWITCH Roff=100Meg Ron=0.01 Voff=3V Von=0V
.ends SCHEMATIC1_S7
